US06498169B1
Synthesis of 4-[N-Benzyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride
4-Benzylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (230 mg) and 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (158 mg) were condensed by the same manner as described in Example 9. Yellow oil of a free base was converted to a tetrahydrochloride which gave the title compound as yellow powder.

reactant | 4-Benzylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 230 mg | C(C1=CC=CC=C1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H33N3O3
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 158 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-Benzyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride | Cl.Cl.Cl.Cl.C(C1=CC=CC=C1)N(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C42H48N4O6.4ClH/c1-47-37-22-32(23-38(48-2)41(37)51-5)35-20-30(12-16-43-35)26-45-18-14-34(15-19-45)46(27-29-10-8-7-9-11-29)28-31-13-17-44-36(21-31)33-24-39(49-3)42(52-6)40(25-33)50-4;;;;/h7-13,16-17,20-25,34H,14-15,18-19,26-28H2,1-6H3;4*1H
